US04200578
When 2-chloromethyl-4-methylthiazole [prepared from 2-hydroxymethyl-4-methylthiazole and thionyl chloride] is reacted with cysteamine hydrochloride and about two equivalents of a strong base such as sodium methoxide and the resultant amine treated with dimethyl cyanodithioimidocarbonate there is produced N-cyano-N'-{2-[(4-methylthiazol-2-yl)methylthio]ethyl}-S-methylisothiourea. When the latter compound is reacted with propargylamine according to the general procedure of Example 4, there is produced N-cyano-N'-(2-propyn-1-yl)-N"-{2-[(4-methylthiazol-2-yl)methylthio]ethyl}guanidine.

reactant | 2-chloromethyl-4-methylthiazole | ClCC=1SC=C(N1)C | C5H6ClNS
reactant | cysteamine hydrochloride | Cl.NCCS
reactant | sodium methoxide | C[O-].[Na+]
reactant | dimethyl cyanodithioimidocarbonate | C(#N)N=C(SC)SC | C4H6N2S2
product | N-cyano-N'-{2-[(4-methylthiazol-2-yl)methylthio]ethyl}-S-methylisothiourea | C(#N)NC(SC)=NCCSCC=1SC=C(N1)C | C10H14N4S3
